US07423159B2
A mixture of 1-(4-fluorophenyl)-2-propanone (10.0 g) and N,N-dimethylformamide dimethylacetal (8.00 g) was stirred at 120° C. for 2 hrs. The reaction mixture was cooled, and hexane was added to the precipitated solids, which were collected by filtration to give 4-(dimethylamino)-3-(4-fluorophenyl)but-3-en-2-one (11.3 g, yield 83%) as a pale-yellow solid.

reactant | 1-(4-fluorophenyl)-2-propanone | 10.0 g | FC1=CC=C(C=C1)CC(C)=O | C9H9FO
reactant | N,N-dimethylformamide dimethylacetal | 8.00 g | COC(N(C)C)OC | C5H13NO2
solvent | hexane | CCCCCC | C6H14
product | 4-(dimethylamino)-3-(4-fluorophenyl)but-3-en-2-one | 11.3 g, yield 83% | CN(C=C(C(C)=O)C1=CC=C(C=C1)F)C | C12H14FNO
